US04312876
Trans-4-(4-hydroxyphenoxy)-1-methyl-3-phenylpiperidine
A solution of 8.59 g of trans-4-(4-benzyloxyphenoxy)-1-methyl-3-phenylpiperdine in a mixture of 100 ml of absolute ethanol and 50 ml of tetrahydrofuran is hydrogenated overnight over 5% palladium-on-carbon at room temperature under 45 pounds per square inch of hydrogen. The catalyst is filtered and washed with ethanol and ether. The filtrate is concentrated in vacuo to a nearly colorless, partially solidified foam. Trituration of the foam with ether followed by recrystallization from 270 ml of chloroform gives product as a colorless solid, mps 169.5° C., 170°-172° C.

reactant | trans-4-(4-benzyloxyphenoxy)-1-methyl-3-phenylpiperdine | 8.59 g | C(C1=CC=CC=C1)OC1=CC=C(O[C@H]2[C@@H](CN(CC2)C)C2=CC=CC=C2)C=C1 | C25H27NO2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | palladium-on-carbon | [Pd] | Pd
product | Trans-4-(4-hydroxyphenoxy)-1-methyl-3-phenylpiperidine | OC1=CC=C(O[C@H]2[C@@H](CN(CC2)C)C2=CC=CC=C2)C=C1 | C18H21NO2
